US08212045B2
A flask was charged with 1,3,5-trimethyl-1H-pyrazol-4-yl benzoate (80 g, 347 mmol), and added 500 mL ethanol. 3M NaOH (174 ml, 521 mmol) was added and the reaction was stirred at ambient temperature for 2 hours. The ethanol was removed in vacuo and the aqueous layer was extracted with dichloromethane, ethyl acetate and dichloromethane:isopropyl alcohol (4:1). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to afford 1,3,5-trimethyl-1H-pyrazol-4-ol (34 g, 78% yield) as white solid.

reactant | 1,3,5-trimethyl-1H-pyrazol-4-yl benzoate | 347 mmol, 80 g | C(C1=CC=CC=C1)(=O)OC=1C(=NN(C1C)C)C | C13H14N2O2
reactant | NaOH | 521 mmol, 3M, 174 ml | [OH-].[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 1,3,5-trimethyl-1H-pyrazol-4-ol | 34 g, 78% yield | CN1N=C(C(=C1C)O)C | C6H10N2O
